US08492378B2
4-(5-methyl-1,3,4-oxadiazol-2-yl)-2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine
A mixture of 2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-4-carbohydrazide (104 mg, 0.371 mmol) and ethyl orthoacetate (5 mL) was stirred at 120° C. for 1 hr and at 140° C. for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1-0/1) and basic silica gel column chromatography (hexane/ethyl acetate=4/1-0/1), and recrystallized from hexane/ethyl acetate to give the title compound (85 mg, yield 75%) as pale-yellow crystals.

reactant | 2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine-4-carbohydrazide | 0.371 mmol, 104 mg | C1(=CC=CC=C1)CCC1=CC2=C(N=CC=C2C(=O)NN)N1 | C16H16N4O
reactant | ethyl orthoacetate | 5 mL | C(C)(OCC)([O-])[O-]
product | 4-(5-methyl-1,3,4-oxadiazol-2-yl)-2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine | 85 mg, yield 75% | CC1=NN=C(O1)C1=C2C(=NC=C1)NC(=C2)CCC2=CC=CC=C2 | C18H16N4O
